US08372379B2
1-trityl-4-ethoxymethylpyrazole:
This compound is a slightly yellow solid and has been obtained as described in 2b for 1-trityl-4-methoxymethylpyrazole, starting from 1-trityl-4-hydroxymethylpyrazole (1.250 g; 3.67 mmol), sodium hydride (221 mg; 5.51 mmol) and iodoethane (1.5 mL; 18.35 mmol), as described in example 2a for 3,5-dimethyl-4-methoxyethyl-1-tritylpyrazole. Yield: 87% (1.174 g, 3.19 mmol).

reactant | 1-trityl-4-methoxymethylpyrazole | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=CC(=C1)COC | C24H22N2O
reactant | 1-trityl-4-hydroxymethylpyrazole | 3.67 mmol, 1.250 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=CC(=C1)CO | C23H20N2O
reactant | sodium hydride | 5.51 mmol, 221 mg | [H-].[Na+]
reactant | iodoethane | 18.35 mmol, 1.5 mL | ICC | C2H5I
reactant | 3,5-dimethyl-4-methoxyethyl-1-tritylpyrazole | CC1=NN(C(=C1CCOC)C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H28N2O
product | 1-trityl-4-ethoxymethylpyrazole | Yield: 87% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=CC(=C1)COCC | C25H24N2O
